US04028084
(a) N-(3',4'-dichlorobenzyl)-2-cyanoacetamide
A solution of 113.3 g. (1.002 moles) of ethyl cyanoacetate and 176.4 g. (1.002 moles) of 3,4-dichlorobenzylamine in 400 ml. of absolute ethanol is heated at reflux with stirring for 42 hours which upon cooling the entire solution solidifies. The latter is broken-up, slurried in ether, isolated by filtration and dried in vacuo to give 179.8 g. of product as a white solid, m.p. 144°-5° C.

reactant | ethyl cyanoacetate | 1.002 moles | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3,4-dichlorobenzylamine | 1.002 moles | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N-(3',4'-dichlorobenzyl)-2-cyanoacetamide | ClC=1C=C(CNC(CC#N)=O)C=CC1Cl | C10H8Cl2N2O
